US06720329B2
Methyl 4-(1,1-dioxido-2H-1-benzothiopyran-4-yl)benzoate from reaction 33c (0.64 g, 2.13 mmol) was dissolved in methanol (30 mL), degassed with nitrogen, 5% Pd/C was added and the reaction was charged to 55 PSI hydrogen. The reaction was shaken for 6 h. The catalyst was removed over Celite and the filtrate was concentrated to give methyl 4-(1,1-dioxido-3,4-dihydro-2H-1-benzothiopyran-4-yl)benzoate (0.49 g, 73%) as a solid.

reactant | Methyl 4-(1,1-dioxido-2H-1-benzothiopyran-4-yl)benzoate | O=S1(CC=C(C2=C1C=CC=C2)C2=CC=C(C(=O)OC)C=C2)=O | C17H14O4S
solvent | methanol | 30 mL | CO | CH4O
product | methyl 4-(1,1-dioxido-3,4-dihydro-2H-1-benzothiopyran-4-yl)benzoate | 0.49 g, 73% | O=S1(CCC(C2=C1C=CC=C2)C2=CC=C(C(=O)OC)C=C2)=O | C17H16O4S
